US07244730B2
(Step 1) 1-{4-[5-Bromo-3-(tert-butyl)-2-methoxyphenyl]piperazino}-1-ethanone
Acetyl chloride (0.10 ml) was mixed with a solution of 1-[5-bromo-3-(tert-butyl)-2-methoxyphenyl]piperazine (370 mg) and triethylamine (0.32 mL) in methylene chloride (8 ml), and the mixture was stirred at room temperature for 3 hours. The reaction mixture was diluted with ethyl acetate and, after filtering off the insoluble portion, was concentrated. The residue was purified by silica gel column chromatography (solvent: n-hexane-ethyl acetate) to yield the title compound (338 mg) as colorless crystals (81%).

reactant | Acetyl chloride | 0.10 ml | C(C)(=O)Cl | C2H3ClO
reactant | 1-[5-bromo-3-(tert-butyl)-2-methoxyphenyl]piperazine | 370 mg | BrC=1C=C(C(=C(C1)N1CCNCC1)OC)C(C)(C)C | C15H23BrN2O
reactant | triethylamine | 0.32 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 8 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-{4-[5-Bromo-3-(tert-butyl)-2-methoxyphenyl]piperazino}-1-ethanone | 338 mg, 81% | BrC=1C=C(C(=C(C1)N1CCN(CC1)C(C)=O)OC)C(C)(C)C | C17H25BrN2O2
